US04298530
A 500 ml. three-necked glass flask equipped with a reflux condenser, a thermometer and a stirrer was charged with a mixture consisting of 50 g of 3,5-dimethyl-4-ethoxycarbonyl-phthalic anhydride, 42 g of well-dried malonic acid, 30 g of sodium acetate and 200 g of acetic acid, and the flask was heated in an oil bath. The phthalic anhydride derivative was reacted with malonic acid at 90° to 95° C. for 15 hours with stirring. After the reaction, the reaction mixture was analyzed by high-speed liquid chromatography. It was found that the conversion was 90%, and the desired 5,7-dimethyl-6-ethoxycarbonyl-3-hydroxy-3-methylphthalide was obtained in a yield of 77%.

reactant | 3,5-dimethyl-4-ethoxycarbonyl-phthalic anhydride | 50 g | CC1=C2C(C(=O)OC2=O)=CC(=C1C(=O)OCC)C | C13H12O5
reactant | malonic acid | 42 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | sodium acetate | 30 g | C(C)(=O)[O-].[Na+]
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 200 g | C(C)(=O)O | C2H4O2
product | 5,7-dimethyl-6-ethoxycarbonyl-3-hydroxy-3-methylphthalide | yield of 77% | CC=1C=C2C(OC(=O)C2=C(C1C(=O)OCC)C)(C)O | C14H16O5
